US06733789B1
A solution of bisoprolol was prepared as follows. To 529.2 g of purified water were added 180 g of bisoprolol fumarate 2:1. The mixture was stirred for 10 minutes to dissolve the drug. 10.8 g of talc USP (Whitaker, Clark and Daniels Inc., South Plainfield, N.J., USA) were added to the solution and the mixture was stirred for 20 minutes.

reactant | bisoprolol fumarate | 180 g | CC(C)NCC(COC=1C=CC(=CC1)COCCOC(C)C)O.C(=C/C(=O)O)\C(=O)O
solvent | water | 529.2 g | O | H2O
product | bisoprolol | CC(C)NCC(COC=1C=CC(=CC1)COCCOC(C)C)O | C18H31NO4
